*****************************************************************
* NXP BUK9K12-60E
*
* Polarity N-Channel
* Ratings 60V/1.150000E-002OHMS/35A
*
* Date Created Mon May 12 07:40:56 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K12-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00045

RDS 7 4 1200000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00704456726174854 TC=0.00660089037213704,2.49162366714248E-05
RBD 9 4 0.00129047269699121 TC=0.00660089037213704,2.49162366714248E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5000000000
CGS 2 6 2.302e-09
RG 1 2 2

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1.5	1775
+ -1	1567.57
+ -0.5	1097.96
+ -0.2	750.833
+ -0.1	741.642
+ 0	534.95834
+ 0.1	405.3482
+ 0.2	404.93168
+ 0.5	344.58124
+ 1	287.4878
+ 2	215.70436
+ 3	187.39812
+ 4	174.635
+ 5	167.26316
+ 6	162.31916
+ 8	155.5634
+ 10	150.61636
+ 12	146.38904
+ 15	140.72652
+ 16	138.88996
+ 20	132.62272
+ 25	126.09868
+ 30	120.94348
+ 40	113.66296
+ 48	109.65344



.MODEL MINT NMOS(Vto=2.05962506055949 Kp=2.207774e+002 Nfs=360000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=4.97711121307192e-12
+ N=1 M=0.59 VJ=0.54 Fc=0.5 Cjo=1.03781932e-09 Tt=1.5272e-08)

.ENDS

