*******************************************************************************
*****************************************************************
* NXP PSMN1R2_25YL
*
* Polarity N-Channel
* Ratings 25V/1.20E-03OHMS/10A
*
* Date Created Thu Mar 11 06:34:02 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R2_25YL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00031680393729636 TC=0.0190133189236794,-3.14590110631038e-05
RBD 9 4 0.000310235578457851 TC=0.0190133189236794,-3.14590110631038e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 5.535e-09
RG 1 2 0.916633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	5016
+ -8	4991
+ -6	4995
+ -4	4970
+ -2	4862
+ -1	3503
+ -0.5	2615
+ -0.2	2225
+ -0.1	2118
+ 0	0
+ 0.1	1860
+ 0.2	1740
+ 0.5	1473
+ 1	1237
+ 2	1024
+ 5	798
+ 10	668
+ 12	630
+ 20	566
+ 25	543



.MODEL MINT NMOS(Vto=2.07640551709994 Kp=9.5468e+02 Nfs=280000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8
+ Tox=1e-07
+ U0=600 Vmax=100)

.MODEL DBD D(Bv=28.00 Ibv=2.50E-04 Rs=1E-6 Is=7.29097526843083e-12
+ N=1 M=0.56 VJ=0.5 Fc=0.5 Cjo=5.79832e-09 Tt=1.85e-08)

.ENDS

*******************************************************************************
