*****************************************************************
* NXP PSMN0R9_25YLC
*
* Polarity N-Channel
* Ratings 25V/9.9E-04OHMS/25A
*
* Date Created Mon Apr  4 04:58:11 2011
* RDS TC corrected 27/03/2015 - BC
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN0R9_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 25000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000409516545211457 TC=0.00522812770691843,3.84615341783146e-05
RBD 9 4 0.000566450319537623 TC=0.00522812770691843,3.84615341783146e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.56889853757075e-09
RG 1 2 1.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	6515
+ -10	6496
+ -5	6460
+ -4	6403
+ -3	6354
+ -2	5808
+ -1	4564
+ -0.5	3858
+ -0.2	3394
+ -0.1	3232
+ 0	3065.5
+ 0.1	2830
+ 0.2	2607
+ 0.5	2014
+ 1	1418
+ 2	998
+ 3	853
+ 4	772
+ 5	719
+ 6	682
+ 8	630
+ 10	593
+ 12	570
+ 15	548
+ 20	521



.MODEL MINT NMOS(Vto=1.88092691793468 Kp=7.1736e+02 Nfs=400000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Vmax=950)

.MODEL DBD D(Bv=25.00 Ibv=2.50E-04 Rs=1E-6 Is=9.67455065564493e-12
+ N=1 M=0.68 VJ=0.76 Fc=0.5 Cjo=5.964e-09 Tt=2.6e-08)

.ENDS
