*****************************************************************
* NXP PSMN1R2_30YLC
*
* Polarity N-Channel
* Ratings 30V/1.4E-03OHMS/25A
*
* Date Created Sat Apr  2 18:20:26 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R2_30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000218

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00091789801888867 TC=0.00922383871052811,-1.64423466797699e-05
RBD 9 4 0.000670660570265189 TC=0.00922383871052811,-1.64423466797699e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.17723829787234e-09
RG 1 2 1.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	4724
+ -10	4717
+ -5	4682
+ -4	4661
+ -3	4639
+ -2	4000
+ -1	2920
+ -0.5	2389
+ -0.2	2051
+ -0.1	1940
+ 0	1831.5
+ 0.1	1679.0
+ 0.2	1547.0
+ 0.5	1231.0
+ 1	944.7
+ 2	711.3
+ 3	605.6
+ 4	539.3
+ 5	494.2
+ 6	459.7
+ 8	407.9
+ 10	372.4
+ 12	350.6
+ 15	333.4
+ 20	315.1
+ 24	303.5



.MODEL MINT NMOS(Vto=1.9501839625295 Kp=6.0802e+02 Nfs=380000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Vmax=1000)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=2.33073558919534e-12
+ N=1 M=0.690000000000001 VJ=0.86 Fc=0.5 Cjo=4.937e-09 Tt=4.15e-08)

.ENDS
