*****************************************************************
* NXP PSMN1R5_30YLC
*
* Polarity N-Channel
* Ratings 30V/1.7E-03OHMS/25A
*
* Date Created Sat Apr  2 18:23:47 2011
* RDS TC corrected 27/03/2015 - BC
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R5_30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.000314

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00106859572605382 TC=0.0180471442578861,-4.13324903731898e-05
RBD 9 4 0.000666168496891611 TC=0.0180471442578861,-4.13324903731898e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.58969977051083e-09
RG 1 2 1.02663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	3513
+ -10	3502
+ -5	3476
+ -4	3446
+ -3	2564
+ -2	2504
+ -1	2071
+ -0.5	1750
+ -0.2	1553
+ -0.1	1486
+ 0	1155.55
+ 0.1	893
+ 0.2	890.4
+ 0.5	884.2
+ 1	827.5
+ 2	592
+ 3	498.1
+ 4	443.1
+ 5	401.9
+ 6	375.1
+ 8	333.1
+ 10	307.5
+ 12	291.1
+ 20	255
+ 25	241.3



.MODEL MINT NMOS(Vto=1.9380094864614 Kp=5.0065e+02 Nfs=390000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Vmax=1200)

.MODEL DBD D(Bv=30.00 Ibv=2.50E-04 Rs=1E-6 Is=1.89242547763412e-12
+ N=1 M=0.5 VJ=0.99 Fc=0.5 Cjo=3.0386e-09 Tt=4.1e-08)

.ENDS


